US09399623B2
3-{6-Chloro-5-[(4,4-difluoro-cyclohexylmethyl)-carbamoyl]-quinolin-2-ylamino}-propionic acid ethyl ester (81)
The title compound was synthesized according to the procedure described in example 1 by heating 2,6-dichloro-quinoline-5-carboxylic acid (4,4-difluoro-cyclohexylmethyl)-amide, DIEPA and 3-Amino-propionic acid ethyl ester hydrochloride in DMSO at 140° C. 1H NMR (400 MHz, DMSO-d6) δ 4.16 (s, 1H), 4.00 (t, J=13.2 Hz, 2H), 3.78 (t, J=7.60 Hz, 2H), 3.28 (d, J=6.04 Hz, 2H), 8.81 (s, 1H), 7.68-7.77 (m, 2H), 6.93-7.02 (m, 1H), 4.05-4.10 (m, 2H), 3.68-3.80 (m, 2H), 3.23 (t, J=6.03 Hz, 2H), 2.01-2.03 (m, 2H), 1.73-1.88 (m, 5H), 1.22-2.27 (m, 2H), 1.15-1.19 (m, 3H). m/z: 454.0 [M+H]+

reactant | 2,6-dichloro-quinoline-5-carboxylic acid (4,4-difluoro-cyclohexylmethyl)-amide | FC1(CCC(CC1)CNC(=O)C=1C=2C=CC(=NC2C=CC1Cl)Cl)F | C17H16Cl2F2N2O
reactant | 3-Amino-propionic acid ethyl ester hydrochloride | Cl.C(C)OC(CCN)=O
solvent | DMSO | CS(=O)C | C2H6OS
product | 3-{6-Chloro-5-[(4,4-difluoro-cyclohexylmethyl)-carbamoyl]-quinolin-2-ylamino}-propionic acid ethyl ester | C(C)OC(CCNC1=NC2=CC=C(C(=C2C=C1)C(NCC1CCC(CC1)(F)F)=O)Cl)=O | C22H26ClF2N3O3
